US06583157B2
6-Trifluoromethoxy-benzothiazol-2-ylamine (405)
To a solution of 4-trifluoromethoxyaniline (Aldrich, 4.83 g, 30 mmol) in 50 mL of AcOH, was added KSCN (Aldrich, 11.64 g, 120 mmol). After the mixture was stirred for 30 min, a solution of bromine (Aldrich, 1.55 mL, 30 mmol) in 20 mL of AcOH was added over 30 min period, and the resulting reaction mixture was stirred overnight. The mixture was diluted with ice/water, brought to pH 8 with conc. NH4OH. The mixture extracted 3× with EtOAc (300 mL). The organic layers were washed twice with a brine solution (300 mL), dried over Na2SO4 and concentrated. The residue was purified by chromatography (40%-45% EtOAc/Hexanes) to give 6.0 g (85%) of product.

reactant | 4-trifluoromethoxyaniline | 30 mmol, 4.83 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | KSCN | 120 mmol, 11.64 g | C(#N)[S-].[K+]
reactant | bromine | 30 mmol, 1.55 mL | BrBr | Br2
reactant | NH4OH | [NH4+].[OH-]
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 6-Trifluoromethoxy-benzothiazol-2-ylamine | 6.0 g, 85% | FC(OC1=CC2=C(N=C(S2)N)C=C1)(F)F | C8H5F3N2OS
